US07777047B2
N-{5-hydroxy-2-[5-(thiomorpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylpyridine-2-sulfonamide
To a solution of 2-[5-(dimethoxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-5-yl pivalate (273 mg) in trifluoroacetic acid (2 mL) were added water (4 mL) and concentrated sulfuric acid (2 mL), and the mixture was stirred at 80° C. for 5 hr, basified with saturated aqueous sodium hydrogencarbonate, and extracted with ethyl acetate. The organic layer was diluted with ethyl acetate, washed with water and saturated brine, dried (MgSO4), and concentrated under reduced pressure. To a tetrahydrofuran solution (5 mL) of the residue were added thiomorpholine (0.041 mL) and sodium triacetoxyborohydride (215 mg), and the mixture was stirred overnight at room temperature. Saturated aqueous sodium hydrogencarbonate and ethyl acetate were added to the reaction solution, and the organic layer was washed with water and saturated brine, dried (MgSO4), and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1-1:2) to give the title compound (145 mg, yield 85%) as a colorless amorphous powder. MS: 504 (MH+).

reactant | 2-[5-(dimethoxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-5-yl pivalate | 273 mg | C(C(C)(C)C)(=O)OC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C1=NC=CC=C1)C)C=1SC(CN1)C(OC)OC | C25H30N4O6S2
reactant | water | 4 mL | O | H2O
reactant | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N-{5-hydroxy-2-[5-(thiomorpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylpyridine-2-sulfonamide | 145 mg, yield 85% | OC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C1=NC=CC=C1)C)C=1SC(CN1)CN1CCSCC1 | C22H25N5O3S3
